US08802673B2
To a stirred solution of (RS)-3-{4-[(RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethylamino]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (27 mg) in THF (1 ml) was added dropwise a solution of hydrogen chloride in dioxane (0.20 ml, 4 M solution) and the mixture was heated at 60° C. for 4 hours. The mixture was then cooled to room temperature, diluted with ethyl acetate/THF (1:1), and washed sequentially with 2 N aq. sodium hydroxide solution and with saturated brine. The organic phase was separated, dried over sodium sulphate, and concentrated in vacuo. The reside was purified by flash column chromatography (silical gel; gradient: heptane/dichloromethane/methanol) to give [(RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-((RS)-4-pyrrolidin-3-yl-phenyl)-amine (12 mg, 56%) as a yellow amorphous solid. MS (ISP): 402.1 ([{81Br}M+H]+), 400.1 ([{79Br}M+H]+).

reactant | (RS)-3-{4-[(RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethylamino]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 27 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC=C(C=C1)NC(C(F)(F)F)C1=NC=C(C=C1)Br | C22H25BrF3N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | dioxane | 4 M, 0.20 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
product | [(RS)-1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-((RS)-4-pyrrolidin-3-yl-phenyl)-amine | 12 mg, 56% | BrC=1C=CC(=NC1)C(C(F)(F)F)NC1=CC=C(C=C1)C1CNCC1 | C17H17BrF3N3
